US05352802
A mixture of 65.1g (0.45 mol)of E-4-phenyl-3-buten-2-one, 50 g (0.45 mol)of 2-thiophenecarboxaldehyde, 4 mL of aqueous 10% sodium hydroxide, 50 mL of water, and 75 mL of ethanol was stirred at ambient temperature for 15 hours. The solid which separated was collected by filtration and air dried to give 85.6 g (80% yield) of E,E- 1-(2-thienyl)-5-phenyl- 1,4-pentadien-3-one as a yellow solid. 1H NMR, IR, and FDMS analyses were consistent with the expected structure.

reactant | E-4-phenyl-3-buten-2-one | 0.45 mol, 65.1g | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
reactant | 2-thiophenecarboxaldehyde | 0.45 mol, 50 g | S1C(=CC=C1)C=O | C5H4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | E,E- 1-(2-thienyl)-5-phenyl- 1,4-pentadien-3-one | 85.6 g, 80% yield | S1C(=CC=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O | C15H12OS
